US07259160B2
Step A: tert-Butyl[(1R)-3-[methoxy(methyl)amino]-1-methyl-3-oxopropyl]carbamate
A solution of (3R)-3-[(tert-butoxycarbonyl)amino]butanoic acid (1 g, 5 mmol) in acetonitrile (40 mL) was treated with 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDC; 1.05 g, 5.5 mmol), 1-hydroxybenzotriazole (HOBt; 810 mg, 6 mmol), N,O-dimethylhydroxylamine hydrochloride (1.0 g, 10 mmol) and triethylamine (1.4 mL) and stirred at room temperature for 2 d. The solution was evaporated and the residue purified by flash chromatography on a Biotage® system (silica gel, 40-90% ethyl acetate/hexane gradient) to yield the desired product as a colorless viscous oil. MS 269.1 (M+Na).

reactant | (3R)-3-[(tert-butoxycarbonyl)amino]butanoic acid | 5 mmol, 1 g | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)C | C9H17NO4
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 5.5 mmol, 1.05 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 6 mmol, 810 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,O-dimethylhydroxylamine hydrochloride | 10 mmol, 1.0 g | Cl.CNOC
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | triethylamine | 1.4 mL | C(C)N(CC)CC | C6H15N
product | tert-Butyl[(1R)-3-[methoxy(methyl)amino]-1-methyl-3-oxopropyl]carbamate | C(C)(C)(C)OC(N[C@@H](CC(=O)N(C)OC)C)=O | C11H22N2O4
